* spicelib\examples\testfiles\all_components.asc
* Hand crafted to match the most important variants we encounter. 
* This file is not meant to be used in a simulation.

* Bxxx n001 n002 [VIRP]=<expression> [ic=<value>] ...
B1 NC_01 NC_02 V=1e-9 tc1=2
B2 NC_01 NC_02 V=1e-9 delay=1
B3 NC_01 NC_02 V=1e-9 ic=1e-6,4 a=1e-09 blabla=1 2 3 4 5 6 7
B4 NC_01 NC_02 V=1e-9
B5 NC_01 NC_02 V=1e-9 VprXover=50mV

* Cxxx n1 n2 <capacitance> [ic=<value>] ...
* Cxxx n+ n- <value> <mname> <m=val> <scale=val> <temp=val> ...
* Cxxx n1 n2 C=<capacitance> [ic=<value>] ...
* Cxxx n1 n2 Q=<expression> [ic=<value>] [m=<value>] ...
C1 NC_03 NC_04 1e-9 rser=1e-09 c=' with spaces ' blabla=1 2 3 4 5 6 7
C2 NC_03 NC_04 c = 1e-9 tc1 = 40
C3 NC_03 NC_04 c = 1e-9 tc1=-1e-03 tc2=1.3e-05
C4 NC_03 NC_04 1e-9

* Dxxx anode cathode <model> [area] [off] [m=<val>] [n=<val>] [temp=<value>] ...
* Dxxx n+ n- mname <area=val> <m=val> <pj=val> <off> ...
D1 NC_05 NC_06 1e-9
D2 NC_05 NC_06 1e-9 m=1 n=1e-09 blabla=1 2 3 4 5 6 7

E1 NC_07 NC_08 1e-9
E2 NC_07 NC_08 1e-9
F1 NC_11 NC_12 1e-9
G1 NC_13 NC_14 1e-9
G2 NC_13 NC_14 1e-9
H1 NC_17 NC_18 1e-9

* Ixxx n+ n- <current> [AC=<amplitude>] [load]
* Ixxx n+ n- PULSE(Ioff Ion Tdelay Trise Tfall Ton Tperiod Ncycles)
* Ixxx n+ n- SINE(Ioffset Iamp Freq Td Theta Phi Ncycles)
* Ixxx n+ n- EXP(I1 I2 Td1 Tau1 Td2 Tau2)
* Ixxx n+ n- SFFM(Ioff Iamp Fcar MDI Fsig)
* Ixxx n+ n- <value> step(<value1>, [<value2>], [<value3>, ...]) [load]
* Ixxx n+ n- R=<value>
* Ixxx n+ n- PWL(t1 i1 t2 i2 t3 i3...)
* Ixxx n+ n- wavefile=<filename> [chan=<nnn>]
I1 NC_19 NC_20 1e-9
I2 NC_08 NC_09 1e-9 Rser=3 bb=1e-09 blabla=1 2 3 4 5 6 7

* Jxxx D G S <model> [area] [off] [IC=Vds, Vgs] [temp=T]
J1 NC_21 NC_22 NC_23 1e-9
J2 NC_21 NC_22 NC_23 1e-9 ic=1, 2 temp=6

* Kxxx Lyyy Lzzz ... value
K1 L2 L3 1e-9
K2 L2 L3 L4 L5 L6 1e-9

* Lxxx n+ n- <value> <mname> <nt=val> <m=val> ...
* Lxxx n+ n- L = 'expression' <tc1=value> <tc2=value>
L1 NC_28 NC_29 1e-9 temp=13
L2 NC_28 NC_29 1e-9
L3 NC_28 NC_29 1e-9 bb=aa temp=13

* Mxxx Nd Ng Ns Nb <model> [m=<value>] [L=<len>] ...
* Mxxx Nd Ng Ns <model> [L=<len>] [W=<width>]
M1 NC_30 NC_31 NC_32 NC_33 1e-9
M2 NC_30 NC_31 NC_32 NC_33 1e-9 temp=2
M3 Nd Ng Ns 1e-9

*  Nxxx NI1 NI2...NIX mname [<parameter>=<value>] ...
N1 z a vdd vdd 1e-9 l=1e-09 w=1u as=0.26235p ps=2.51u pd=2.51u blabla=1 2 3 4 5 6 7
N2 z a vdd vdd BSIMBULK_osdi_P  l=0.1u   w=1u as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u 

* Oxxx L+ L- R+ R- <model>
O1 NC_34 NC_35 NC_36 NC_37 1e-9

* (ngspice) Pxxx NI1 NI2...NIX GND1 NO1 NO2...NOX GND2 mname <LEN=LENGTH>
P1 NI1 NI2 GND1 NO1 NO2 GND2 1e-9 LEN=2
* (xyce) P<name> <+ node> <- node> [[DC] <value>] port=port number [Z0 = value]....
P2 NI1 NI2 DC 1e-9 port=2 Z0=50

* Qxxx nc nb ne <ns> <tj> mname <area=val> <areac=val> ...
* Qxxx Collector Base Emitter [Substrate Node] model [area] [off] [IC=<Vbe, Vce>] [temp=<T>]
Q1 NC_38 NC_39 NC_40 0 1e-9
Q2 NC_38 NC_39 NC_40 1e-9 temp=60 ic=0.6, 5

* Rxxx n1 n2 <value> [tc=tc1, tc2, ...] [temp=<value>] ...
* Rxxx n+ n- <value> <mname> <l=length> <w=width> ...
* Rxxx n+ n- R = 'expression' <tc1=value> <tc2=value> <noisy=0> ...
R1 in out 1e-9
R2 NC_41 NC_42 R= 1e-9
R3 NC_41 NC_42 1e-9 temp=13
R4 in out 1e-9 tol=1% pwr=0.1

* Sxxx n1 n2 nc+ nc- <model> [on,off]
S1 NC_43 NC_44 NC_45 NC_46 1e-9

* Txxx L+ L- R+ R- Zo=<value> Td=<value>
T1 NC_47 NC_48 NC_49 NC_50 Td=50n Z0=50

* Uxxx N1 N2 Ncom <model> L=<len> [N=<lumps>]
U1 NC_51 NC_52 NC_53 1e-9
U2 NC_51 NC_52 NC_53 1e-9 len=2

* Vxxx n+ n- <voltage> [AC=<amplitude>] [Rser=<value>] [Cpar=<value>]
* Vxxx n+ n- PULSE(V1 V2 Tdelay Trise Tfall Ton Tperiod Ncycles)
* Vxxx n+ n- SINE(Voffset Vamp Freq Td Theta Phi Ncycles)
* Vxxx n+ n- EXP(V1 V2 Td1 Tau1 Td2 Tau2)
* Vxxx n+ n- SFFM(Voff Vamp Fcar MDI Fsig)
* Vxxx n+ n- PWL(t1 v1 t2 v2 t3 v3...)
* Vxxx n+ n- wavefile=<filename> [chan=<nnn>]
V1 NC_54 NC_55 1e-9
V2 NC_08 NC_09 1e-9 Rser=3 Cpar=4

* Wxxx n1 n2 Vnam <model> [on,off]
W1 NC_56 NC_57 V1 1e-9

* Xxxx n1 n2 n3... <subckt name> [<parameter>=<expression>]
XU1 1 2 1e-9
XU2 NC_58 NC_59 NC_60 NC_61 NC_62 1e-9
XU3 NC_01 NC_02 NC_03 NC_04 NC_05 1e-9 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=1e-09 In=0 Ink=0 Rin=500Meg blabla=1 2 3 4 5 6 7
XU4 in out1 V1 V2 out1 1e-9 bla_v2=1e-09 bla_sp2=3 blabla=1 2 3 4 5 6 7
XU5 in out1 V1 V2 out1 GND 1e-9
XM1 mos upper_gate_A A tj_m1 tcase_m1 1e-9

* (ngspice) Yxxx N1 0 N2 0 mname <LEN=LENGTH>
* Ynnn N+ N- <frequency1> dF=<value> Ctot=<value> [Q=<value>]
Y1 1 0 2 0 1e-9 LEN=2
Y2 1 0 1e-9 q=10

* Zxxx D G S model [area] [m=<value>] [off] [IC=<Vds, Vgs>] [temp=<value>]
Z1 NC_63 NC_64 NC_65 1e-9
Z2 NC_63 NC_64 NC_65 1e-9 ic=1, 2 area=1.4

* Ãnnn VDD VSS OUT IN- IN+ MULT+ MULT- IN-- IN++ EN ¥ ¥ ¥ ¥ ¥ ¥ <TYPE> [INSTANCE PARAMETERS]
Ã1 VDD VSS OUT IN- IN+ MULT+ MULT- IN-- IN++ EN ¥ ¥ ¥ ¥ ¥ ¥ 1e-9 I=5

* ¥nnn N1 N2 N3 N4 N5 N6 N7 N8 N9 N10 N11 N12 N13 N14 N15 N16 <TYPE> [INSTANCE PARAMETERS]
¥1 N1 N2 N3 N4 N5 N6 N7 N8 N9 N10 N11 N12 N13 N14 N15 N16 1e-9 I=5

* ×nnn «PRI+ PRI- SEC1+ SEC1- SEC2+ SEC2 [...]» <TURNS=N1 N2 N3 ...> [Additional
Instance Parameters]
×1 1 2 3 4 5 6 turns=1 .5 .5
×2 1 2 3 4 5 6 7 8 turns=1 .5 .5 .5 L=2

.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NJF NJF
.model PJF PJF
.lib standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos
* This is XU1
.lib ADI1.lib
.backanno
.end
