* spicelib\examples\testfiles\all_components.asc
* Hand crafted to match the most important variants we encounter. 
* This file is not meant to be used in a simulation.

* Bxxx n001 n002 [VIRP]=<expression> [ic=<value>] ...
B1 NC_01 NC_02 V=1e-9 tc1=2
B2 NC_01 NC_02 V=1e-9 delay=1
B3 NC_01 NC_02 V=1e-9 ic=1e-6,4 a=1e-09 blabla=1 2 3 4 5 6 7
B4 NC_01 NC_02 V=1e-9
B5 NC_01 NC_02 V=1e-9 VprXover=50mV

* Cxxx n1 n2 <capacitance> [ic=<value>] ...
* Cxxx n+ n- <value> <mname> <m=val> <scale=val> <temp=val> ...
* Cxxx n1 n2 C=<capacitance> [ic=<value>] ...
* Cxxx n1 n2 Q=<expression> [ic=<value>] [m=<value>] ...
C1 NC_03 NC_04 1e-9 rser=1e-09 c=' with spaces ' blabla=1 2 3 4 5 6 7
C2 NC_03 NC_04 c = 1e-9 tc1 = 40
C3 NC_03 NC_04 c = 1e-9 tc1=-1e-03 tc2=1.3e-05
C4 NC_03 NC_04 1e-9

* Dxxx anode cathode <model> [area] [off] [m=<val>] [n=<val>] [temp=<value>] ...
* Dxxx n+ n- mname <area=val> <m=val> <pj=val> <off> ...
D1 NC_05 NC_06 1e-9
D2 NC_05 NC_06 1e-9 m=1 n=1e-09 blabla=1 2 3 4 5 6 7

E1 NC_07 NC_08 1e-9
E2 NC_07 NC_08 1e-9
F1 NC_11 NC_12 1e-9
G1 NC_13 NC_14 1e-9
G2 NC_13 NC_14 1e-9
H1 NC_17 NC_18 1e-9

* Ixxx n+ n- <current> [AC=<amplitude>] [load]
* Ixxx n+ n- PULSE(Ioff Ion Tdelay Trise Tfall Ton Tperiod Ncycles)
* Ixxx n+ n- SINE(Ioffset Iamp Freq Td Theta Phi Ncycles)
* Ixxx n+ n- EXP(I1 I2 Td1 Tau1 Td2 Tau2)
* Ixxx n+ n- SFFM(Ioff Iamp Fcar MDI Fsig)
* Ixxx n+ n- <value> step(<value1>, [<value2>], [<value3>, ...]) [load]
* Ixxx n+ n- R=<value>
* Ixxx n+ n- PWL(t1 i1 t2 i2 t3 i3...)
* Ixxx n+ n- wavefile=<filename> [chan=<nnn>]
I1 NC_19 NC_20 1e-9
I2 NC_08 NC_09 1e-9 Rser=3 bb=1e-09 blabla=1 2 3 4 5 6 7

* Jxxx D G S <model> [area] [off] [IC=Vds, Vgs] [temp=T]
J1 NC_21 NC_22 NC_23 1e-9
J2 NC_21 NC_22 NC_23 1e-9 ic=1, 2 temp=6

* Kxxx Lyyy Lzzz ... value
K1 L2 L3 1e-9
K2 L2 L3 L4 L5 L6 1e-9

* Lxxx n+ n- <value> <mname> <nt=val> <m=val> ...
* Lxxx n+ n- L = 'expression' <tc1=value> <tc2=value>
L1 NC_28 NC_29 1e-9 temp=13
L2 NC_28 NC_29 1e-9
L3 NC_28 NC_29 1e-9 bb=aa temp=13

* Mxxx Nd Ng Ns Nb <model> [m=<value>] [L=<len>] ...
* Mxxx Nd Ng Ns <model> [L=<len>] [W=<width>]
M1 NC_30 NC_31 NC_32 NC_33 1e-9
M2 NC_30 NC_31 NC_32 NC_33 1e-9 temp=2
M3 Nd Ng Ns 1e-9

*  Nxxx NI1 NI2...NIX mname [<parameter>=<value>] ...
N1 z a vdd vdd 1e-9 l=1e-09 w=1u as=0.26235p ps=2.51u pd=2.51u blabla=1 2 3 4 5 6 7
N2 z a vdd vdd BSIMBULK_osdi_P  l=0.1u   w=1u as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u 

* Oxxx L+ L- R+ R- <model>
O1 NC_34 NC_35 NC_36 NC_37 1e-9

* (ngspice) Pxxx NI1 NI2...NIX GND1 NO1 NO2...NOX GND2 mname <LEN=LENGTH>
P1 NI1 NI2 GND1 NO1 NO2 GND2 1e-9 LEN=2
* (xyce) P<name> <+ node> <- node> [[DC] <value>] port=port number [Z0 = value]....
P2 NI1 NI2 DC 1e-9 port=2 Z0=50

* Qxxx nc nb ne <ns> <tj> mname <area=val> <areac=val> ...
* Qxxx Collector Base Emitter [Substrate Node] model [area] [off] [IC=<Vbe, Vce>] [temp=<T>]
Q1 NC_38 NC_39 NC_40 0 1e-9
Q2 NC_38 NC_39 NC_40 1e-9 temp=60 ic=0.6, 5

* Rxxx n1 n2 <value> [tc=tc1, tc2, ...] [temp=<value>] ...
* Rxxx n+ n- <value> <mname> <l=length> <w=width> ...
* Rxxx n+ n- R = 'expression' <tc1=value> <tc2=value> <noisy=0> ...
R1 in out 1e-9 ; withcomments
R2 NC_41 NC_42 R= 1e-9
R3 NC_41 NC_42 1e-9 temp=13
R4 in out 1e-9 tol=1% pwr=0.1

* Sxxx n1 n2 nc+ nc- <model> [on,off]
S1 NC_43 NC_44 NC_45 NC_46 1e-9

* Txxx L+ L- R+ R- Zo=<value> Td=<value>
T1 NC_47 NC_48 NC_49 NC_50 Td=50n Z0=50

* Uxxx N1 N2 Ncom <model> L=<len> [N=<lumps>]
U1 NC_51 NC_52 NC_53 1e-9
U2 NC_51 NC_52 NC_53 1e-9 len=2

* Vxxx n+ n- <voltage> [AC=<amplitude>] [Rser=<value>] [Cpar=<value>]
* Vxxx n+ n- PULSE(V1 V2 Tdelay Trise Tfall Ton Tperiod Ncycles)
* Vxxx n+ n- SINE(Voffset Vamp Freq Td Theta Phi Ncycles)
* Vxxx n+ n- EXP(V1 V2 Td1 Tau1 Td2 Tau2)
* Vxxx n+ n- SFFM(Voff Vamp Fcar MDI Fsig)
* Vxxx n+ n- PWL(t1 v1 t2 v2 t3 v3...)
* Vxxx n+ n- wavefile=<filename> [chan=<nnn>]
V1 NC_54 NC_55 1e-9
V2 NC_08 NC_09 1e-9 Rser=3 Cpar=4

* Wxxx n1 n2 Vnam <model> [on,off]
W1 NC_56 NC_57 V1 1e-9

* Xxxx n1 n2 n3... <subckt name> [<parameter>=<expression>]
XU1 1 2 1e-9
XU2 NC_58 NC_59 NC_60 NC_61 NC_62 1e-9 ;§ withcomments
XU3 NC_01 NC_02 NC_03 NC_04 NC_05 1e-9 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=1e-09 In=0 Ink=0 Rin=500Meg blabla=1 2 3 4 5 6 7
XU4 in out1 V1 V2 out1 1e-9 bla_v2=1e-09 bla_sp2=3 blabla=1 2 3 4 5 6 7
XU5 in out1 V1 V2 out1 GND 1e-9
XM1 mos upper_gate_A A tj_m1 tcase_m1 1e-9
XM2 vout VIN VSS VSS 1e-9 w={XM1_w} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as=1e-09 pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1 blabla=1 2 3 4 5 6 7

* (ngspice) Yxxx N1 0 N2 0 mname <LEN=LENGTH>
* Ynnn N+ N- <frequency1> dF=<value> Ctot=<value> [Q=<value>]
Y1 1 0 2 0 1e-9 LEN=2
Y2 1 0 1e-9 q=10

* Zxxx D G S model [area] [m=<value>] [off] [IC=<Vds, Vgs>] [temp=<value>]
Z1 NC_63 NC_64 NC_65 1e-9
Z2 NC_63 NC_64 NC_65 1e-9 ic=1, 2 area=1.4

* Ãnnn VDD VSS OUT IN- IN+ MULT+ MULT- IN-- IN++ EN ¥ ¥ ¥ ¥ ¥ ¥ <TYPE> [INSTANCE PARAMETERS]
Ã1 VDD VSS OUT IN- IN+ MULT+ MULT- IN-- IN++ EN ¥ ¥ ¥ ¥ ¥ ¥ 1e-9 I=5

* ¥nnn N1 N2 N3 N4 N5 N6 N7 N8 N9 N10 N11 N12 N13 N14 N15 N16 <TYPE> [INSTANCE PARAMETERS]
¥1 N1 N2 N3 N4 N5 N6 N7 N8 N9 N10 N11 N12 N13 N14 N15 N16 1e-9 I=5

* €nnn VDD VSS OUT D0...D11 EN ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ DAC [INSTANCE PARAMETERS]
€1 VDD VSS OUT D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 EN ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ otherotherdac bla=1
€2 ¥2 ¥3 ¥4 ¥5 ¥6 ¥7 ¥8 ¥9 ¥10 ¥11 ¥12 ¥13 ¥ ¥ ¥ ¥ ¥14 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ otherotherdac Rdac=val

* £nnn N1 ... N64 [DIGITALCOMPARATOR|ECODER|GATEDRIVER|MULTIPLEXER|3STATE] [INSTANCE PARAMETERS]
£1 N1 N2 N3 N4 N5 N6 N7 N8 N9 N10 N11 N12 N13 N14 N15 N16 N17 N18 N19 N20 N21 N22 N23 N24 N25 N26 N27 N28 N29 N30 N31 N32 N33 N34 N35 N36 N37 N38 N39 N40 N41 N42 N43 N44 N45 N46 N47 N48 N49 N50 N51 N52 N53 N54 N55 N56 N57 N58 N59 N60 N61 N62 N63 N64 DIGITALCOMPARATOR bla=2

* Ø´nn «N1´t ..» «N5´t ..» «N6´t» <model> [INSTANCE PARAMETERS]
Ø´X1 «CLK´b PRESET´b NIBBLE´uc» «OUT´uc MATCHED´b» «»  other shortfloat=1
Ø´X2 «CLK´b PRESET´b NIBBLE´uc» «OUT´uc MATCHED´b» «bla´c»  other shortfloat test = 2

* ×nnn «PRI+ PRI- SEC1+ SEC1- SEC2+ SEC2 [...]» <TURNS=N1 N2 N3 ...> [Additional
Instance Parameters]
×1 «1 2 3 4 5 6» turns=1 .5 .5
×2 «1 2 3 4 5 6 7 8» turns=1 .5 .5 .5 L=2

.model D D
.lib standard.dio
.model NPN NPN
.model PNP PNP
.lib standard.bjt
.model NJF NJF
.model PJF PJF
.lib standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos
* This is XU1
.lib ADI1.lib
.backanno
.end
